US08859536B2
5-Chloro-1-propyl-1H-pyrrolo[3,2-b]pyridine (101A)
1-Bromopropane (192 mg, 1.57 mmol) was added to a solution of 2-chloro-5H-pyrrolo[3,2-d]pyrimidine (200 mg, 1.31 mmol) in DMF (15 mL) followed by cesium carbonate (0.855 g, 2.63 mmol), and the mixture was stirred at 70° C. for 0.5 h. Insoluble solids were filtered off, filtrate was concentrated and partitioned between ethyl acetate and water. Organic layer was separated, washed with brine, dried over sodium sulphate and filtered. The filtrate was concentrated in vacuo to afford title compound (0.22 g, 86%) as an oil. 1H NMR (300 MHz, CDCl3): δ 7.59 (d, J=8.7 Hz, 1H), 7.34 (d, J=3.3 Hz, 1H), 7.10 (d, J=8.4 Hz, 1H), 6.62 (d, J=3.6 Hz, 1H), 4.07 (t, J=6.9 Hz, 2H), 1.86 (m, 2H), 0.91 (t, J=7.5 Hz, 3H).

reactant | 1-Bromopropane | 1.57 mmol, 192 mg | BrCCC | C3H7Br
reactant | 2-chloro-5H-pyrrolo[3,2-d]pyrimidine | 1.31 mmol, 200 mg | ClC=1N=CC2=C(N1)C=CN2 | C6H4ClN3
reactant | cesium carbonate | 2.63 mmol, 0.855 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 5-Chloro-1-propyl-1H-pyrrolo[3,2-b]pyridine | 0.22 g, 86% | ClC1=CC=C2C(=N1)C=CN2CCC | C10H11ClN2
